US05580893
N-(2-Nitroxyethyl)-3-methyl-2-thiophenecarboxamide (Exemplified compound No. 27)
Following a similar treatment to that in Example 2 and using 0.60 g of 3-methyl-2-thiophenecarboxylic acid and 0.60 g of nitroxyethylamine nitrate, 0.35 g of the title compound was obtained as colorless needles (solvent for recrystallization; diisopropyl ether).

reactant | 3-methyl-2-thiophenecarboxylic acid | 0.60 g | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | nitroxyethylamine nitrate | 0.60 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-3-methyl-2-thiophenecarboxamide | 0.35 g | O([N+](=O)[O-])CCNC(=O)C=1SC=CC1C | C8H10N2O4S
